US07696223B2
d) 2,3-Dichloro-4-hydroxy-1-(3-methyl-butyl)-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester
The crude 2-[(tert-butoxycarbonyl-ethoxycarbonylmethyl-amino)-methyl]-4,5-dichloro-1-(3-methyl-butyl)-1H-pyrrole-3-carboxylic acid ethyl ester (24.1 g, 48.9 mmol) was dissolved in 110 mL of anhydrous THF and cooled to −78° C. in a acetone dry ice bath. A solution of 77.0 mL of 1.0 M potassium tert-butoxide in THF was added slowly to cold solution, and the reaction was stirred at −78° C. for 30 min. and then at room temperature for 10 min. The reaction was quenched with 9.2 mL of acetic acid. The solvent was evaporated off, and the residue was dissolved in methylene chloride (184 mL). Trifluoroacetic acid (184 mL) was added, and the reaction mixture was stirred at ambient temperature for 1 h. The solvent was evaporated off, and the residue was dissolved in 100 mL of methylene chloride. Triethylamine was added until the solution was basic. After air passed the reaction mixture overnight, the solvent was evaporated off. The residue was dissolved in 350 mL of ethyl acetate, and the organic solution was washed with water and saturated sodium chloride solution, dried, filtered, and concentrated. The crude product was purified by flash chromatography eluting from silica gel with a gradient of 0-100% ethyl acetate in hexanes to produce 2.23 g of a brown froth. MS: (+) m/z 345.2 (M+1).

reactant | 2-[(tert-butoxycarbonyl-ethoxycarbonylmethyl-amino)-methyl]-4,5-dichloro-1-(3-methyl-butyl)-1H-pyrrole-3-carboxylic acid ethyl ester | 48.9 mmol, 24.1 g | C(C)OC(=O)C1=C(N(C(=C1Cl)Cl)CCC(C)C)CN(CC(=O)OCC)C(=O)OC(C)(C)C | C22H34Cl2N2O6
reactant | potassium tert-butoxide | 1.0 M, 77.0 mL | CC(C)([O-])C.[K+]
solvent | THF | 110 mL | C1CCOC1 | C4H8O
product | 2,3-Dichloro-4-hydroxy-1-(3-methyl-butyl)-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(=C2C(=CN1)N(C(=C2Cl)Cl)CCC(C)C)O | C15H18Cl2N2O3
